US04523042
1-Phenylmercapto-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene
To a solution of 1.85 g (5 mmol) of 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenyl acetate in 25 ml of anhydrous THF and 8 ml of HMPA is added in portions 0.68 g (5.2 mmol) of sodium thiophenoxide. The resulting mixture is stirred at room temperature for 18 hours and then taken up in 250 ml of diethyl ether. The solution is washed with saturated aqueous NH4Cl and water, dried and evaporated in vacuo to give an oil. Purification on a silica gel dry column gives the desired product.

reactant | 2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaenyl acetate | 5 mmol, 1.85 g | C(C)(=O)OCC(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C | C25H36O2
reactant | sodium thiophenoxide | 5.2 mmol, 0.68 g | [S-]C1=CC=CC=C1.[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | HMPA | 8 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 1-Phenylmercapto-2,5,9-trimethyl-11-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2,4,6,8,10-undecapentaene | C1(=CC=CC=C1)SCC(=CC=C(C=CC=C(C=CC1=C(CCCC1(C)C)C)C)C)C | C29H38S
